US08648201B2
300 mg (1.210 mmol) of 2-amino-5-iodopyridine-3-carbaldehyde and 24 mg (3.629 mmol) of imidazole are dissolved in ml of DMSO in a nitrogen-filled microwave vessel. 51.6 mg (0.363 mmol) of trans-N,N-dimethyl-1,2-cyclohexanediamine, 69.1 mg (0.363 mmol) of copper iodide, 523.8 mg (2.468 mmol) of K3PO4 and 5 ml of toluene is added. The reaction mixture is irradiated with microwaves for 2 hours at 150° C. The reaction mixture is cooled to room temperature, filtered off, and the solvent is removed. Water/ethyl acetate is added to the residue. The organic phase is separated, and the aqueous phase is extracted a further 2× with ethyl acetate. The combined organic phases are dried over sodium sulfate, filtered, and the solvent is removed, giving 2-amino-5-imidazol-1-ylpyridine-3-carbaldehyde; HPLC-MS [M+H]+ 189.2.

reactant | 2-amino-5-iodopyridine-3-carbaldehyde | 1.210 mmol, 300 mg | NC1=NC=C(C=C1C=O)I | C6H5IN2O
reactant | imidazole | 3.629 mmol, 24 mg | N1C=NC=C1 | C3H4N2
reactant | trans-N,N-dimethyl-1,2-cyclohexanediamine | 0.363 mmol, 51.6 mg | CN([C@H]1[C@@H](CCCC1)N)C | C8H18N2
reactant | K3PO4 | 2.468 mmol, 523.8 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | copper iodide | 0.363 mmol, 69.1 mg | [Cu](I)I
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-amino-5-imidazol-1-ylpyridine-3-carbaldehyde | NC1=NC=C(C=C1C=O)N1C=NC=C1 | C9H8N4O
